US05153201
2-(3-Amino-4-methylphenyl)-4,5,6,7-tetrahydrothiazolo[5,4-b]pyridine dihydrochloride
2-(3-Amino-4-methylphenyl)-4,5,6,7-tetrahydrothiazolo[5,4-b]pyridine was neutralized with hydrochloric acid and recrystallized from ethanol to obtain the titled compound (yield: 48.1%).

reactant | 2-(3-Amino-4-methylphenyl)-4,5,6,7-tetrahydrothiazolo[5,4-b]pyridine | NC=1C=C(C=CC1C)C=1SC=2NCCCC2N1 | C13H15N3S
reactant | hydrochloric acid | Cl | ClH
product | 2-(3-Amino-4-methylphenyl)-4,5,6,7-tetrahydrothiazolo[5,4-b]pyridine dihydrochloride | yield: 48.1% | Cl.Cl.NC=1C=C(C=CC1C)C=1SC=2NCCCC2N1 | InChI=1S/C13H15N3S.2ClH/c1-8-4-5-9(7-10(8)14)12-16-11-3-2-6-15-13(11)17-12;;/h4-5,7,15H,2-3,6,14H2,1H3;2*1H
